US07132572B2
To a suspension of aluminium chloride (0.375 g, 2.82 mmol) in 1,2-dichloroethane (15 ml) at 0° C. was added a solution of 2-diphenylamino-9,9-diethylfluorene (1.0 g, 2.57 mmol) in 1,2-dichloroethane (15 ml). Bromoacetyl bromide (0.269 ml, 3.08 mmol) was added over a period of 10 min to maintain a steady reaction temperature between 0–10° C. under an ice-bath. At the end of addition, the mixture was warmed to ambient temperature, stirred for another 4 h, and quenched by a slow addition of water (50 ml) to maintain the mixture temperature below 45° C. Organic layer was washed subsequently with dil. HCl (1.0 N, 50 ml) and water (50 ml, twice). It was concentrated in vacuuo to give crystalline yellow solids. These crude products were purified by column chromatography (silica gel, hexane-toluene/3:2 as eluent, Rf=0.3 on thin layer chromatography using the same solvent mixture as eluent) to afford 7-bromoacetyl-9,9-diethyl-2-diphenylaminofluorene (0.87 g) as yellow crystalline solids in a yield of 66%

reactant | aluminium chloride | 2.82 mmol, 0.375 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-diphenylamino-9,9-diethylfluorene | 2.57 mmol, 1.0 g | C1(=CC=CC=C1)N(C1=CC=2C(C3=CC=CC=C3C2C=C1)(CC)CC)C1=CC=CC=C1 | C29H27N
reactant | Bromoacetyl bromide | 3.08 mmol, 0.269 ml | BrCC(=O)Br | C2H2Br2O
solvent | 1,2-dichloroethane | 15 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 15 ml | ClCCCl | C2H4Cl2
product | 7-bromoacetyl-9,9-diethyl-2-diphenylaminofluorene | 0.87 g, yield of 66% | BrCC(=O)C1=CC=C2C=3C=CC(=CC3C(C2=C1)(CC)CC)N(C1=CC=CC=C1)C1=CC=CC=C1 | C31H28BrNO
